US08859494B2
Analogously to example 1, cyclobutane-1,1-diyldimethanol, 3-methylphenol and methyl 3-(4-hydroxyphenyl)hex-4-ynoate were used to obtain 3-[4-(1-m-tolyloxymethylcyclobutylmethoxy)phenyl]hex-4-ynoic acid.

reactant | cyclobutane-1,1-diyldimethanol | C1(CCC1)(CO)CO | C6H12O2
reactant | 3-methylphenol | CC=1C=C(C=CC1)O | C7H8O
reactant | methyl 3-(4-hydroxyphenyl)hex-4-ynoate | OC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C13H14O3
product | 3-[4-(1-m-tolyloxymethylcyclobutylmethoxy)phenyl]hex-4-ynoic acid | C1(=CC(=CC=C1)OCC1(CCC1)COC1=CC=C(C=C1)C(CC(=O)O)C#CC)C | C25H28O4
